US07419974B2
(i) trans-Ethyl 4-(4-(N-benzyloxycarbonylamino)cyclohexyl)benzoate
A mixture of 2.0 g (0.0008 mol) of trans-ethyl 4-(4-aminocyclohexyl)benzoate, 1.25 ml of triethylamine and 1.26 ml (0.0084 mol) of benzyl chloroformate at 95% in 40 ml of dimethylformamide is stirred at room temperature for 3 hours. The mixture is poured into water, extracted with ethyl acetate and dried, and the solvent is evaporated off. The residue is purified by chromatography on a silica gel column, eluting with an 8/2 cyclohexane/ethyl acetate mixture. The compound of the title is obtained.

reactant | trans-ethyl 4-(4-aminocyclohexyl)benzoate | 0.0008 mol, 2.0 g | N[C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)OCC)C=C1 | C15H21NO2
reactant | triethylamine | 1.25 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 0.0084 mol, 1.26 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | water | O | H2O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | trans-Ethyl 4-(4-(N-benzyloxycarbonylamino)cyclohexyl)benzoate | C(C1=CC=CC=C1)OC(=O)N[C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)OCC)C=C1 | C23H27NO4
